US06720320B2
(3) (S)-α-(2′-(2-hydroxy-3-(4-(naphthalen-2-yl) piperidino) propyloxy) benzylidene)-γ-butyrolactone
(S)-α-(2′-(2,3-epoxypropan-1-yloxy)benzylidene)-γ-butyrolactone (50 g) and 4-(naphthalen-2-yl)piperidine (43 g) were dissolved in ethanol (500 ml) and the mixture was refluxed under heating for 2 hr. After cooling, the solvent was evaporated under reduced pressure and the obtained crystals were collected by filtration. The crystals were recrystallized once from acetonitrile and once from a mixed solvent of ethyl acetate and ethanol to give the title compound (50 g), melting point 138-140° C.

reactant | (S)-α-(2′-(2,3-epoxypropan-1-yloxy)benzylidene)-γ-butyrolactone | 50 g | O1[C@H](COC2=C(C=C3C(=O)OCC3)C=CC=C2)C1 | C14H14O4
reactant | 4-(naphthalen-2-yl)piperidine | 43 g | C1=C(C=CC2=CC=CC=C12)C1CCNCC1 | C15H17N
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | (S)-α-(2′-(2-hydroxy-3-(4-(naphthalen-2-yl) piperidino) propyloxy) benzylidene)-γ-butyrolactone | 50 g | O[C@H](COC1=C(C=C2C(=O)OCC2)C=CC=C1)CN1CCC(CC1)C1=CC2=CC=CC=C2C=C1 | C29H31NO4
